US05025036
A solution of 37 g (0.18 mol) of 2,4-dihydroxy-3-propylbenzoic acid methyl ester in 750 mL of methanol and 415 mL of 3N sodium hydroxide was stirred at reflux for 3 hours. The methanol was removed under reduced pressure and the residue was treated with water and 6N hydrochloric acid to acidify. The solid product was extracted with ethyl acetate and the extract was dried and concentrated under reduced pressure to a tan solid which was used without purification. This crude acid (35 g, 0.18 mol), 23 mL (0.2 mol) of benzyl chloride and 17 g (0.2 mol) of sodium bicarbonate in 250 mL of anhydrous dimethylformamide was stirred and heated at 60° for 23 hours. The solvent was removed under reduced pressure and the residue was treated with saturated sodium bicarbonate solution and the product was extracted with ethyl acetate. The dried extract was concentrated under reduced pressure and the residual oil was purified by HPLC using 15% ethyl acetate hexane to give 36 g (70% yield), mp 86°-88° of 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester.

reactant | 2,4-dihydroxy-3-propylbenzoic acid methyl ester | 0.18 mol, 37 g | COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C11H14O4
reactant | benzyl chloride | 0.2 mol, 23 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium bicarbonate | 0.2 mol, 17 g | C([O-])(O)=O.[Na+]
solvent | methanol | 750 mL | CO | CH4O
solvent | sodium hydroxide | 3N, 415 mL | [OH-].[Na+]
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 70% yield | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
